US06359145B1
A mixture of 1-[(2S,3R)-2-(benzyloxy)-5-(2-chlorophenyl)-3-pentyl]imidazole-4-carboxamide (obtained in Example 3(9))(40 mg) and iodotrimethylsilane (0.02 ml) in chloroform (1 ml) was stirred at room temperature for 2 hours. The mixture was poured into methanol and the whole was evaporated in vacuo. The residue was taken up in ethyl acetate, washed with water, aqueous sodium bisulfite and sodium bicarbonate, successively, and dried. The residue left after evaporation of solvent was purified by column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (20:1) to give a white powder of 1-[(2S,3R)-2-hydroxy-5-(2-chlorophenyl)-3-pentyl]imidazole-4-carboxamide (6.1 mg).

reactant | 1-[(2S,3R)-2-(benzyloxy)-5-(2-chlorophenyl)-3-pentyl]imidazole-4-carboxamide | 40 mg | C(C1=CC=CC=C1)O[C@@H](C)[C@@H](CCC1=C(C=CC=C1)Cl)N1C=NC(=C1)C(=O)N | C22H24ClN3O2
reactant | iodotrimethylsilane | 0.02 ml | I[Si](C)(C)C | C3H9ISi
reactant | methanol | CO | CH4O
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[(2S,3R)-2-hydroxy-5-(2-chlorophenyl)-3-pentyl]imidazole-4-carboxamide | 6.1 mg | O[C@@H](C)[C@@H](CCC1=C(C=CC=C1)Cl)N1C=NC(=C1)C(=O)N | C15H18ClN3O2
